US03980617
Preparation of a copolymer of acrylamido methyl-4-hydroxy benzophenone/stearyl methacrylate
Into a 50 ml flask provided with a condenser, a nitrogen lead in tube and an agitator, there are introduced 1g of acrylamino methyl 4-hydroxy benzophenone, 1.5g of stearyl methacrylate and 0.25g of azobis-isobutyronitrile in solution in 5 ml of acetone. The resulting mixture is heated for 8 hours at 80°C.

reactant | nitrogen lead | [Pb].[N]
reactant | acrylamino methyl 4-hydroxy benzophenone | C(=O)(C=C)NCC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)O | C17H15NO3
reactant | stearyl methacrylate | 1.5g | C(C(=C)C)(=O)OCCCCCCCCCCCCCCCCCC | C22H42O2
reactant | azobis-isobutyronitrile | 0.25g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | acrylamido methyl-4-hydroxy benzophenone stearyl methacrylate | C(C=C)(=O)NCC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)O.C(C(=C)C)(=O)OCCCCCCCCCCCCCCCCCC | InChI=1S/C22H42O2.C17H15NO3/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-24-22(23)21(2)3;1-2-16(20)18-11-13-10-14(19)8-9-15(13)17(21)12-6-4-3-5-7-12/h2,4-20H2,1,3H3;2-10,19H,1,11H2,(H,18,20)
